US09023883B2
Into a 250-mL 3-necked round-bottom flask purged and. To a stirred solution of oxalyl chloride (18.576 g, 146.35 mmol, 3.01 equiv) in anhydrous dichloromethane (300 mL) maintained under nitrogen at −78° C. was added DMSO (15.138 g, 193.75 mmol, 3.98 equiv) dropwise. The reaction mixture was stirred at −65° C. for 30 min. A solution of (3-iodo-1-(oxan-2-yl)-1H-pyrazol-4-yl)methanol (15.0 g, 48.68 mmol, 1.00 equiv) in dichloromethane (100 mL) was then added dropwise at −65° C. and the reaction was stirred for another 60 min at −65° C. Triethylamine (40.6 mL) was added dropwise at −65° C. and the reaction was stirred for 30 min at −65° C. The reaction was warmed to 0° C. then quenched by the addition of 100 mL of saturated NH4Cl solution. The resulting mixture was extracted with 3×400 mL of dichloromethane. The combined organic layers was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified on a silica gel column eluted with ethyl acetate/petroleum ether (1:20) to give 13.48 g (90%) of 3-iodo-1-(oxan-2-yl)-1H-pyrazole-4-carbaldehyde as a golden oil. 1H NMR (300 MHz, DMSO-d6): δ 9.69 (s, 1H), 8.57 (s, 1H), 5.49 (dd, J=2.7 Hz, 9.9 Hz, 1H), 3.95-3.91 (m, 1H), 3.68-3.62 (m, 1H), 2.11-2.01 (m, 3H), 1.69-1.62 (m, 3H) ppm. LCMS (method A, ESI): RT=1.35 min, m/z=307.0 [M+H]+.

reactant | oxalyl chloride | 146.35 mmol, 18.576 g, 3.01 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 193.75 mmol, 15.138 g, 3.98 equiv | CS(=O)C | C2H6OS
reactant | (3-iodo-1-(oxan-2-yl)-1H-pyrazol-4-yl)methanol | 48.68 mmol, 15.0 g, 1.00 equiv | IC1=NN(C=C1CO)C1OCCCC1 | C9H13IN2O2
reactant | Triethylamine | 40.6 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-iodo-1-(oxan-2-yl)-1H-pyrazole-4-carbaldehyde | 13.48 g, 90% | IC1=NN(C=C1C=O)C1OCCCC1 | C9H11IN2O2
